US05319100
1-(N-benzyloxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-11)
3-(3,5-Di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (3.01 g, 10 mmole) was dissolved into THF (60 ml), which was cooled to -70° C. To this mixture, a solution of 1.0M lithium bis(trimethylsilyl)amide dissolved into THF (24 ml) was added. Furthermore, N-benzyloxy-N-methylphenylcarbamate (2.9 g, 12 mmole) was added thereto and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ethyl acetate, which was washed with an aqueous solution of 0.1N hydrochloric acid, water, and saturated brine, dried over magnesium sulfate, and evaporated. The obtained residue was separated by using silica gel chromatography (toluene:ethyl acetate=10:1), whereby 1.5 g of the objective compound (Ia-11) was obtained as white amorphous in 32% yield.

reactant | 3-(3,5-Di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 10 mmole, 3.01 g | C(C)(C)(C)C=1C=C(C=C2C(NCC2)=O)C=C(C1O)C(C)(C)C | C19H27NO2
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 24 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-benzyloxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 1.5 g, 32% yield | C(C1=CC=CC=C1)ON(C(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C28H36N2O4
